US04791139
Stage 1: Preparation of E-3-(4-ethoxyphenyl)-4,4,4-trifluorobut-2-enal
To a solution of methyl E-3-(4-ethoxyphenyl)-4,4,4-trifluorobut-2-enoate, prepared according to Example 17, stage 1, (1.5 g, 5.5×10-3 moles) in toluene (20 ml) at -78° C. was added dropwise one molar equivalent of diisobutylaluminium hydride (5.5 ml, 5.5×10-3 moles) in toluene. The resulting solution was stirred at -78° C. for two hours before quenching the reaction by the sequential addition of acetic acid (0.40 ml, 7.0×10-3 moles), water (1 ml) and sodium sulphate (10 g). The resulting slurry was allowed to warm to room temperature and after a further twenty minutes stirring the solids were filtered off through silica. After removal of the solvent the crude aldehyde was purified by silica chromatography (eluted with 10%, in petroleum ether to give the title compound (0.87 g, 65%).

reactant | methyl E-3-(4-ethoxyphenyl)-4,4,4-trifluorobut-2-enoate | C(C)OC1=CC=C(C=C1)\C(=C/C(=O)OC)\C(F)(F)F | C13H13F3O3
reactant | diisobutylaluminium hydride | 5.5×10-3 moles, 5.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | acetic acid | 7.0×10-3 moles, 0.40 ml | C(C)(=O)O | C2H4O2
reactant | sodium sulphate | 10 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 ml | O | H2O
product | E-3-(4-ethoxyphenyl)-4,4,4-trifluorobut-2-enal | 0.87 g, 65% | C(C)OC1=CC=C(C=C1)\C(=C/C=O)\C(F)(F)F | C12H11F3O2
